
*NGSPICE Question 2
*Weighted Summing Amplifier using Operational Amplifier


*loads the model file Lm358.mod for simulation
.include "Lm358.mod"

*providing the positive and negative power supply for Op-Amp
VCC Vcc 0 15
VEE Vee 0 -15

*Resistor components
R1 V_1 V_nin 10k
R2 V_2 V_in 50k
Rf V_in V_out 50k


*defining input voltages using PULSE
*PULSE(intial_voltage  pulse_voltage delay_time rise_time fall_time  pulse_width period)
V1 V_1 0 PULSE(0 3 0 1ns 1ns 100 2)
V2 V_2 0 PULSE(0 2 0 1ns 1ns 100 2)

* Op-Amp Subcircuit for intialising Lm358 model
* order : (+) (-) VCC VEE out model_name
XOPAMP V_nin V_in Vcc Vee V_out LM358/NS


*control block
.control
tran 0.001ms 8ms ;  transient analysis ( from 0 to 8ms with step size 0.001ms)
plot v(V_1) v(V_2) v(V_out) ; plotting the voltages
.endc

.end
